US07157465B2
2-Butylaminoadenine
2-Chloroadenine (6.0 g, 35.4 mmol) and butylamine (30 ml) were placed in an autoclave (200 ml), and the content of the autoclave was allowed to react at 130° C. for 150 hours. The reaction solution was concentrated under reduced pressure, and water was poured into the residue to precipitate a solid. The precipitated solid was sequentially washed with methylene chloride and methanol. Thus, 2.08 g of the title compound was obtained as a yellowish orange powdery solid (yield: 30%).

reactant | 2-Chloroadenine | 35.4 mmol, 6.0 g | ClC1=NC(=C2NC=NC2=N1)N | C5H4ClN5
reactant | butylamine | 30 ml | C(CCC)N | C4H11N
product | 2-Butylaminoadenine | 2.08 g | C(CCC)NC1=NC(=C2NC=NC2=N1)N | C9H14N6
